US08003649B2
Reductive amination of 6-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with 3-formylbenzonitrile was carried out according to General Synthetic Method 10. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column, 5μ silica, 30 mm diameter, 100 mm length eluted with decreasingly polar mixtures of water (containing 0.1% aqueous ammonia) and acetonitrile as eluents to give 3-[[5-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1,3,3a,4,6,6a-hexahydropyrrolo[3,4-c]pyrrol-2-yl]methyl]benzonitrile.

reactant | 6-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | C1N(CC2C1CNC2)C=2C=CC=1N(N2)C(=NN1)C(F)(F)F | C12H13F3N6
reactant | 3-formylbenzonitrile | C(=O)C=1C=C(C#N)C=CC1 | C8H5NO
product | 3-[[5-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-1,3,3a,4,6,6a-hexahydropyrrolo[3,4-c]pyrrol-2-yl]methyl]benzonitrile | FC(C1=NN=C2N1N=C(C=C2)N2CC1C(C2)CN(C1)CC=1C=C(C#N)C=CC1)(F)F | C20H18F3N7
